US06699861B1
tert-Butyl 4-[N-[7-Chloro-2-hydroxymethyl-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate
To a solution of tert-butyl 4-[N-[2-acetoxymethyl-7-chloro-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate (0.47 g, 0.92 mmol) in tetrahydrofuran (18 ml), was slowly added 1N aqueous NaOH (1.84 ml, 1.84 mmol) followed by water (1.5 ml). The slightly cloudy solution was stirred at room temperature for 1 hour, the solvent was removed in vacuo and the residue was treated with water (35 ml). The pH was adjusted to 4.5 with 1N HCl and the mixture was extracted with ethyl acetate (3×60 ml). The organics were combined, dried (Na2SO4), and concentrated in vacuo. Purification by column chromatography, on elution with 50% ethyl acetate in dichloromethane, afforded a white solid which was reprecipitated from dichioromethane (minimum amount)/hexanes. The solid was collected by filtration and dried in vacuo over P2O5 (0.345 g, 80%), mp 109-111° C.; 1H-NMR (DMSO-d6); 1.49 (s, 9H, CO2But), 3.50 (s, 3H, N3-Me), 3.25 (s (poorly resolved triplet), 1H, C≡CH), 4.40 (s, 2H, CH2C≡C), 4.57 (d, J=5.70 Hz, 2H, 2-CH2OH), 4.80 (s, 2H, 6-CH2), 5.67 (t, J=6.4 Hz, 1H, CH2OH), 6.78 (d, J=8.80 Hz, 2H, 3′,5′-ArH), 7.72 (d, J=8.44 Hz, 2H, 2′,6′-Ar), 7.82, 7.87 (2×s, 2H, 5-H, 8-H); MS (FAB, m/z) 467, 469 (M+, 95%, 45% respectively; Cl isotopic pattern).

reactant | tert-butyl 4-[N-[2-acetoxymethyl-7-chloro-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | 0.92 mmol, 0.47 g | C(C)(=O)OCC1=NC2=CC(=C(C=C2C(N1C)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)Cl | C27H28ClN3O5
reactant | NaOH | 1.84 mmol, 1N, 1.84 ml | [OH-].[Na+]
reactant | water | 1.5 ml | O | H2O
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
product | tert-Butyl 4-[N-[7-Chloro-2-hydroxymethyl-3-methyl-4-oxo-3,4-dihydroquinazolin-6-ylmethyl]-N-(prop-2-ynyl)amino]benzoate | ClC1=C(C=C2C(N(C(=NC2=C1)CO)C)=O)CN(CC#C)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C25H26ClN3O4
